US06248753B1
A mixture of 4-chloro-3,6-dimethyl-1-(2,4,6-trimethylphenyl)-1H-pyrazolo[3,4-b]pyridine (300 mg, 1 mmol), (S)-2-amino-1-butanol (107 mg, 1.2 mmol) and phenol (188 mg, 2 mmol) was heated in 190° C. oil bath for 15 hours. The mixture was cooled, quenched with 2 N sodium hydroxide and extracted with chloroform. The organic layer was separated and neutralized with 2 N hydrochloride and water. The organic layer was dried and concentrated to give an oil residue. The residue was purified through silica gel column chromatography using chloroform as eluent to give 157 mg of starting material, and 52 mg of 3,6-dimethyl-4-phenoxy-1-(2,4,6-trimethylphenyl)-1H-pyrazolo-[3,4-b]pyridine as beige crystals. 1H NMR (CDCl3): 7.1-7.45 (m, 5H), 6.95 (s, 2H), 6.06 (s, 1H), 2.71 (s, 3H), 2.38 (s, 3H), 2.29 (S, 3H), 1.94 (s, 6H) ppm; and 30 mg of 2-[3,6-dimethyl-1-(2,4,6-trimethylphenyl)-1-H-pyrazolo[3,4-b]pyridin4-ylamino]-butan-1-olasa yellow glass.

reactant | 4-chloro-3,6-dimethyl-1-(2,4,6-trimethylphenyl)-1H-pyrazolo[3,4-b]pyridine | 1 mmol, 300 mg | ClC1=C2C(=NC(=C1)C)N(N=C2C)C2=C(C=C(C=C2C)C)C | C17H18ClN3
reactant | (S)-2-amino-1-butanol | 1.2 mmol, 107 mg | N[C@H](CO)CC | C4H11NO
reactant | phenol | 2 mmol, 188 mg | C1(=CC=CC=C1)O | C6H6O
product | 3,6-dimethyl-4-phenoxy-1-(2,4,6-trimethylphenyl)-1H-pyrazolo-[3,4-b]pyridine | 52 mg | CC1=NN(C2=NC(=CC(=C21)OC2=CC=CC=C2)C)C2=C(C=C(C=C2C)C)C | C23H23N3O
